US05359055
The procedure of Example 24 was repeated except that 3.4 mg (0. 00887 mmole) of 1α,2α-epoxy-21,21-dimethoxy-20-methylpregna-5,7-dien-3β-ol was used in lieu of 3.8 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α -epoxypregna-5,7-dien-3β-ol to give 2.6 mg of 21,21-dimethoxy-20-methylpregna-5,7-diene-1α,3β-diol (yield: ca. 75%).

reactant | 1α,2α-epoxy-21,21-dimethoxy-20-methylpregna-5,7-dien-3β-ol | 3.4 mg | O1[C@H]2[C@@H]1[C@@H](CC1=CC=C3[C@@H]4CC[C@H](C(C(OC)OC)C)[C@]4(CC[C@@H]3[C@@]21C)C)O | C24H36O4
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α -epoxypregna-5,7-dien-3β-ol | 3.8 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H]([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)O)C | C27H40O4
product | 21,21-dimethoxy-20-methylpregna-5,7-diene-1α,3β-diol | 2.6 mg, yield: ca. 75% | COC(C([C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)C)OC | C24H38O4
